US08703758B2
tert-butyl [(1S)-1-methyl-2-(piperidin-4-yloxy)ethyl]carbamate
tert-Butyl [(1S)-1-methyl-2-(pyridin-4-yloxy)ethyl]carbamate (30 g), acetic acid (300 mL) and 10% palladium-carbon (7.5 g) were charged into pressure-resistant reactor vessel, and the mixture was stirred at 80° C. for 6 hr at 0.8 MPa hydrogen pressure. The mixture was allowed to cool to room temperature, and the pressure was reduced to normal level. The insoluble material was removed by filtration, and the filtrate was concentrated. Ethyl acetate (300 mL) was added to the residue, and the mixture was extracted with 10% aqueous citric acid solution (300 mL). The ethyl acetate layer was extracted again with 10% aqueous citric acid solution (150 mL). The aqueous layers were combined, adjusted to pH 12 with 8M aqueous sodium hydroxide solution, and extracted twice with toluene (300 mL). The toluene layers were combined and concentrated. Methanol (30 mL), ethyl acetate (120 mL) and succinic acid (12.1 g) were added to the residue and the mixture was stirred to give crystals. After stirring for 1 hr, diisopropyl ether (150 mL) was added, and the mixture was stirred for 1 hr. The resulting crystals were collected by filtration, washed with diisopropyl ether (150 mL) and dried to give the title compound (32.9 g) as white crystals.

reactant | tert-Butyl [(1S)-1-methyl-2-(pyridin-4-yloxy)ethyl]carbamate | 30 g | C[C@@H](COC1=CC=NC=C1)NC(OC(C)(C)C)=O | C13H20N2O3
reactant | hydrogen | [H][H] | H2
reactant | diisopropyl ether | 150 mL | C(C)(C)OC(C)C | C6H14O
catalyst | palladium-carbon | 7.5 g | [C].[Pd]
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | tert-butyl [(1S)-1-methyl-2-(piperidin-4-yloxy)ethyl]carbamate | 32.9 g | C[C@@H](COC1CCNCC1)NC(OC(C)(C)C)=O | C13H26N2O3
